US06962941B2
A13. Methyl (E)-3-(3-cyanophenyl)acrylate
7.31 ml (74.5 mmol) of methyl acrylate, 13.6 g (74.5 mmol) of 3-bromobenzonitrile and 6.6 g (74.5 mmol) of sodium acetate are suspended in 100 ml of DMF and heated at 120° C. for 30 min until a clear solution has formed. Then a solution of 4.0 g of palladium acetate and 21.0 g of tri-p-tolylphosphine in 5 ml of DMF is added dropwise to the reaction solution, and the mixture is stirred at 120° C. for 2 h. The reaction solution is then diluted with 500 ml of water, and the resulting precipitate is filtered off with suction. Drying under high vacuum and recrystallization from ethyl acetate/petroleum ether result in 12.6 g of the title compound. The mass spectrum shows the molecular peak MH+ at 187.7 Da.

reactant | methyl acrylate | 74.5 mmol, 7.31 ml | C(C=C)(=O)OC | C4H6O2
reactant | 3-bromobenzonitrile | 74.5 mmol, 13.6 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | sodium acetate | 74.5 mmol, 6.6 g | C(C)(=O)[O-].[Na+]
reactant | tri-p-tolylphosphine | 21.0 g | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
catalyst | palladium acetate | 4.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl (E)-3-(3-cyanophenyl)acrylate | 12.6 g | C(#N)C=1C=C(C=CC1)/C=C/C(=O)OC | C11H9NO2
